US07019104B1
33.44 g (0.75 mol) of 2-dicesium salt of 2-hydroxy terephthalic acid, 38.27 g (0.15 mol) of 2-bromoethyl cinnamate and 200 mL of DMF were placed in a reaction vessel and reacted at 110° C. for 5 hours under a nitrogen atmosphere. After reaction, the precipitated CsBr was filtered out and the filtrate was poured into 800 mL of water to form a precipitate. The precipitate was separated from the solution and then dried. Thus 32 g (0.06 mol) of 2-hydroxy terephthalic acid ethyl cinnamate was obtained.

reactant | 2-hydroxy terephthalic acid | OC1=C(C(=O)O)C=CC(=C1)C(=O)O | C8H6O5
reactant | 2-bromoethyl cinnamate | 0.15 mol, 38.27 g | C(C=CC1=CC=CC=C1)(=O)OCCBr | C11H11BrO2
solvent | DMF | 200 mL | CN(C)C=O | C3H7NO
product | 2-hydroxy terephthalic acid ethyl cinnamate | 0.06 mol, 32 g | C(C)OC(C=CC1=CC=CC=C1)=O.OC1=C(C(=O)O)C=CC(=C1)C(=O)O | InChI=1S/C11H12O2.C8H6O5/c1-2-13-11(12)9-8-10-6-4-3-5-7-10;9-6-3-4(7(10)11)1-2-5(6)8(12)13/h3-9H,2H2,1H3;1-3,9H,(H,10,11)(H,12,13)
